US08222266B2
Preparation 48: 4-(2,4-Dimethyl-thiazol-5-yl)-2-methanesulfonyl-pyrimidine (Prep48)
A solution of 4-(2,4-dimethyl-thiazol-5-yl)-2-methylsulfanyl-pyrimidine (342 mg, 1.44 mmol) in MeOH (12 ml) was cooled at 0° C., then an aqueous solution of oxone (2.65 g, 4.32 mmol in 12 ml of water) was slowly added. After stirring 2 hours at room temperature, the mixture was basified with 5% NaHCO3 and the product was extracted with ethyl acetate. The organic phase was dried (Na2SO4) and evaporated to give 288 mg of the title compound that was used in the next step without further purification (75% yield).

reactant | 4-(2,4-dimethyl-thiazol-5-yl)-2-methylsulfanyl-pyrimidine | 1.44 mmol, 342 mg | CC=1SC(=C(N1)C)C1=NC(=NC=C1)SC | C10H11N3S2
reactant | oxone | 4.32 mmol, 12 ml, 2.65 g | OOS(=O)[O-].[K+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | MeOH | 12 ml | CO | CH4O
product | 4-(2,4-Dimethyl-thiazol-5-yl)-2-methanesulfonyl-pyrimidine | 288 mg, 75% yield | CC=1SC(=C(N1)C)C1=NC(=NC=C1)S(=O)(=O)C | C10H11N3O2S2
